US08022062B2
4-tert-Butoxycarbonylaminomethyl-2-chloro-N-cycloheptyl-benzamide:
Dissolve 2-chloro-4-cyano-N-cycloheptyl-benzamide (460 mg, 1.7 mmol) in methanol (15 mL). Cool the solution to 0° C. under a nitrogen atmosphere and add di-tert-butyl dicarbonate (726 mg, 3.3 mmol) and nickel(II) chloride hexahydrate (40 mg, 0.17 mmol). Add then sodium borohydride (360 mg, 9.5 mmol) portionwise over 30 min. Stir at 0° C. for 1 h then concentrate the mixture in vacuo. Dilute the residue with EtOAc (100 mL), wash with saturated aqueous NaHCO3 (40 mL). Extract the aqueous layer with EtOAc (3×40 mL). Dry the combined organic extracts over Na2SO4, filter and concentrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting with EtOAc to obtain the desired intermediate (627 mg, 99%). MS (ES+) m/z: 381.3 (M+H)+.

reactant | 2-chloro-4-cyano-N-cycloheptyl-benzamide | 1.7 mmol, 460 mg | ClC1=C(C(=O)NC2CCCCCC2)C=CC(=C1)C#N | C15H17ClN2O
reactant | di-tert-butyl dicarbonate | 3.3 mmol, 726 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium borohydride | 9.5 mmol, 360 mg | [BH4-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
catalyst | nickel(II) chloride hexahydrate | 0.17 mmol, 40 mg | O.O.O.O.O.O.[Ni](Cl)Cl
product | 4-tert-Butoxycarbonylaminomethyl-2-chloro-N-cycloheptyl-benzamide | 627 mg, 99% | C(C)(C)(C)OC(=O)NCC1=CC(=C(C(=O)NC2CCCCCC2)C=C1)Cl | C20H29ClN2O3
